US07285563B2
6,8-Difluoro-3-methylisoquinoline
A mixture of 2,4-difluoro-6-prop-1-ynylbenzaldehyde (Description 71, 8.7 g; 48.8 mmol) and 2.0M ammonia in methanol (244 ml; 488 mmol) were heated together at 80° C. in a Parr apparatus (approx 35 psi achieved) for 5 hours. The cooled mixture was evaporated and the residue purified by column chromatography on silica-elution with 100% dichloromethane to give the title compound (5.2 g, 59%) as a brown solid.

reactant | 2,4-difluoro-6-prop-1-ynylbenzaldehyde | 48.8 mmol, 8.7 g | FC1=C(C=O)C(=CC(=C1)F)C#CC | C10H6F2O
reactant | ammonia | 2.0M | N | H3N
reactant | methanol | 488 mmol, 244 ml | CO | CH4O
product | 6,8-Difluoro-3-methylisoquinoline | 5.2 g, 59% | FC=1C=C2C=C(N=CC2=C(C1)F)C | C10H7F2N
